US04792562
N-(2-Formyl-1H-pyrrol-1-yl)-N-(4-pyridinyl)-carbamic acid ethyl ester maleate
To cold dimethylformamide (9 g) was slowly added phosphorous oxychloride (18 g). After the reagent complex was formed, a solution of N-(4-pyridinyl)-N-(1H-pyrrol-1-yl)carbamic acid ethyl ester (11 g) in 100 ml of dichloroethane was added. After stirring eight hours at 90°, the reaction mixture was cooled, hydrolyzed with a solution of sodium acetate trihydrate (20 g) in 100 ml of water, basified with sodium carbonate and extracted with dichloromethane. The organic extract was washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and evaporated at 14 g of an oil. This oil was purified by HPLC (silica, 20% ethyl acetate in dihcloromethane) to give 4 g of pure product which was converted to the maleate salt and recrystallized twice from isopropanol to give 3.4 g of needles, d 139°-140°.

reactant | phosphorous oxychloride | 18 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-(4-pyridinyl)-N-(1H-pyrrol-1-yl)carbamic acid ethyl ester | 11 g | C(C)OC(N(N1C=CC=C1)C1=CC=NC=C1)=O | C12H13N3O2
reactant | sodium acetate trihydrate | 20 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloroethane | 100 ml | ClC(C)Cl | C2H4Cl2
solvent | water | 100 ml | O | H2O
solvent | dimethylformamide | 9 g | CN(C=O)C | C3H7NO
product | N-(2-Formyl-1H-pyrrol-1-yl)-N-(4-pyridinyl)-carbamic acid ethyl ester maleate | 4 g | C(\C=C/C(=O)O)(=O)O.C(C)OC(N(C1=CC=NC=C1)N1C(=CC=C1)C=O)=O | InChI=1S/C13H13N3O3.C4H4O4/c1-2-19-13(18)16(11-5-7-14-8-6-11)15-9-3-4-12(15)10-17;5-3(6)1-2-4(7)8/h3-10H,2H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
